US05015471
sodium lauryl ethoxysulphosuccinate (e.g. EMPICOL SDD, available from Albright & Wilson)
coconut monoethanolamide ethoxysulphosuccinate, (e.g. EMPICOL SGG)

reactant | ethoxysulphosuccinate | C(C)OC(C(=O)[O-])(CC(=O)[O-])S(=O)(=O)O
reactant | EMPICOL | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
product | sodium lauryl ethoxysulphosuccinate | C(C)OC(C(=O)OCCCCCCCCCCCC)(CC(=O)[O-])S(=O)(=O)O.[Na+] | InChI=1S/C18H34O8S.Na/c1-3-5-6-7-8-9-10-11-12-13-14-25-17(21)18(26-4-2,15-16(19)20)27(22,23)24;/h3-15H2,1-2H3,(H,19,20)(H,22,23,24);/q;+1/p-1
